US09238644B2
Synthesis of Key Intermediate 8: tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (K8)
A 1.0 M solution of ZnCl2 in Et2O (22.5 mL, 22.5 mmol) was added to a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (4.48 g, 20.7 mmol) in t-BuOH (50 mL) and DCE (50 mL) and the mixture was stirred for 10 minutes. The mixture was diluted with t-BuOH (50 mL) and DCE (50 mL) before tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate (5.00 g, 18.8 mmol) and Et3N (3.14 mL, 22.5 mmol) were added. Stirring was continued overnight and the volatiles were subsequently removed in vacuo. The resultant residue was suspended in acetone (50 mL) then water (500 mL) and sonicated for 15 minutes before the solid was removed by vacuum filtration and the filter cake washed with water (100 mL). The solid was suspended in acetone (25 mL), filtered and the filter cake was washed with petroleum benzine 40-60° C. (200 mL) to give the title compound K8 as a light pink solid (6.57 g, 78%). LCMS-D: rt 3.618 min; m/z 445.1 [M−H]−.

reactant | Et2O | 22.5 mmol, 22.5 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 20.7 mmol, 4.48 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate | 18.8 mmol, 5.00 g | NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H22N4O2
reactant | Et3N | 22.5 mmol, 3.14 mL | CCN(CC)CC | C6H15N
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H22ClF3N6O2
